US07160893B2
Step (A): 1-Benzyl-5-methyl-pyrimidine-2,4,6-trione
Sodium metal (7.68 g, 334 mmol) was dissolved in 100% ethanol (500 mL), benzyl urea (25.12 g, 168 mmol) and diethylmethyl malonate (29 mL, 169 mmol) were added, and the mixture was heated at just below ethanol reflux overnight. The reaction mixture was concentrated to remove ethanol, water (200 mL), and 1 N hydrochloric acid (350 mL) was added, and an oil separated. The oil would not crystallize and could not be purified by chromatography. The oil was treated with ethanol/sodium ethoxide, (400 mL/7.4 g, 322 mmol) overnight at just below ethanol reflux and was worked up as before to give an oil that would not crystallize. This material was used directly in the next step.

reactant | Sodium | 334 mmol, 7.68 g | [Na] | Na
reactant | benzyl urea | 168 mmol, 25.12 g | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | diethylmethyl malonate | 169 mmol, 29 mL | C(CC(=O)[O-])(=O)OC(CC)CC
reactant | ethanol | 500 mL | C(C)O | C2H6O
product | 1-Benzyl-5-methyl-pyrimidine-2,4,6-trione | C(C1=CC=CC=C1)N1C(NC(C(C1=O)C)=O)=O | C12H12N2O3
